### PR TITLE
[Merged by Bors] - feat: if `f` is a measurable group hom, then every point has a neighborhood `s` such that `f '' s` is bounded

### PR DESCRIPTION
**Pull request by YaelDillies**
This will be used to solve Cauchy's functional equation.

From LeanCamCombi

Co-authored-by: Mantas Baksys

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean [hunk 1]
```diff
@@ -44,6 +44,24 @@ instance MapLinearEquiv.isAddHaarMeasure (e : G ≃ₗ[𝕜] H) : IsAddHaarMeasu
...
 
+section SeminormedGroup
+variable {G H : Type*} [MeasurableSpace G] [Group G] [TopologicalSpace G]
+  [TopologicalGroup G] [BorelSpace G] [LocallyCompactSpace G]
+  [MeasurableSpace H] [SeminormedGroup H] [OpensMeasurableSpace H]
+
+open Metric Bornology in
+@[to_additive]
+lemma _root_.Measurable.exists_nhds_one_isBounded (f : G →* H) (hf : Measurable f) (μ : Measure G)
+    [μ.IsHaarMeasure] [InnerRegular μ] :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean:55]: Since mu does not appear in the conclusion, can't you also remove it from the assumptions (using the fact that we know that such an inner regular Haar measure exists)?

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean:55]: What's the mathlib statement that such a measure exists? I could not find it when I looked for it

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean:55]: Ha, you're right, we're only proving the existence of the regular version, not the inner regular one. Still, you can use the regular one to prove your lemma: it is `InnerRegularCompactLTTop` by general results (found by typeclass inference), which is enough to get Steinhaus theorem for sets `E` of finite measure (using `MeasurableSet.exists_lt_isCompact_of_ne_top`, same proof otherwise). 

And in the proof of the theorem you can make sure that you have a set of finite measure: start from a compact set `K` with nonempty interior (which has finite positive measure), then argue that `K` is covered by the `f ^{-1} (B (1, r))`, so one of `K \cap f ^{-1} (B (1, r))` has positive (and finite) measure and you're good to go.

It makes the proof a little bit more complicated, but the result is more satisfactory IMHO. I can implement this proof if you want, if you're not familiar enough with this part of the library.

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean]: Was pretty easy with your hints 😀 

... although does your comment

> we're only proving the existence of the regular version, not the inner regular one.

mean that inner regular measures always exists on lcag groups? (Haar measures is one of the topics I never was formally taught) If so, maybe we should formalise that instead of working around it

File: Mathlib/MeasureTheory/Measure/Haar/Basic.lean [hunk 2]
```diff
@@ -590,33 +590,51 @@ inner regular Haar measures (and in particular for any Haar measure on a second
 
 open Pointwise
 
-/-- **Steinhaus Theorem** In any locally compact group `G` with an inner regular Haar measure `μ`,
+@[to_additive]
+private lemma steinhaus_mul_aux (μ : Measure G) [IsHaarMeasure μ] [μ.InnerRegularCompactLTTop]
+    [LocallyCompactSpace G] (E : Set G) (hE : MeasurableSet E)
+    (hEapprox : ∃ K ⊆ E, IsCompact K ∧ 0 < μ K) : E / E ∈ 𝓝 (1 : G) := by
+  /- For any inner regular measure `μ` and set `E` of positive measure, we can find a compact
+  set `K` of positive measure inside `E`. Further, there exists a neighborhood `V` of the
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Basic.lean:598]: Can you tweak the comment to the current situation?

File: Mathlib/MeasureTheory/Measure/Haar/Basic.lean [hunk 3]
```diff
@@ -590,33 +590,51 @@ inner regular Haar measures (and in particular for any Haar measure on a second
...
+    exact ⟨closure K, hK_comp.closure_subset_measurableSet hE hKE, hK_comp.closure,
+      isClosed_closure, by rwa [hK_comp.measure_closure]⟩
+  filter_upwards [eventually_nhds_one_measure_smul_diff_lt hK K_closed hKpos.ne' (μ := μ)] with g hg
+  obtain ⟨_, ⟨x, hxK, rfl⟩, hgxK⟩ : ∃ x ∈ g • K, x ∈ K :=
+     not_disjoint_iff.1 fun hd ↦ by simp [hd.symm.sdiff_eq_right, measure_smul] at hg
+  simpa using div_mem_div (hKE hgxK) (hKE hxK)
+
+/-- **Steinhaus Theorem** for finite mass sets.
+
+In any locally compact group `G` with an Haar measure `μ` that's inner regular on compact sets, for
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/Basic.lean:614]:
```suggestion
In any locally compact group `G` with an Haar measure `μ` that's inner regular on finite measure sets, for
```
(Same thing in the to_additivized version)

File: Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean [hunk 4]
```diff
@@ -44,6 +41,32 @@ instance MapLinearEquiv.isAddHaarMeasure (e : G ≃ₗ[𝕜] H) : IsAddHaarMeasu
...
 end LinearEquiv
 
+section SeminormedGroup
+variable {G H : Type*} [MeasurableSpace G] [Group G] [TopologicalSpace G]
+  [TopologicalGroup G] [BorelSpace G] [LocallyCompactSpace G]
+  [MeasurableSpace H] [SeminormedGroup H] [OpensMeasurableSpace H]
+
+open Metric Bornology in
+@[to_additive]
+lemma _root_.Measurable.exists_nhds_one_isBounded (f : G →* H) (hf : Measurable f) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean:51]: Could you formulate it for a general point instead of just `one`?

**Review by sgouezel — COMMENTED** [review]
Could you adjust the PR description to the current statement?

File: Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Haar/NormedSpace.lean]: Yes, inner regular measures always exist. But proving this is way harder than your lemma, so I'd go with the workaround for now. If you want, you can add a todo in the proof saying one can streamline it using an inner regular Haar measure.

File: Mathlib/MeasureTheory/Measure/Haar/Basic.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/Haar/Basic.lean:598]: What about this?

**Comment by sgouezel** [comment]
Please adjust the PR message
bors d+

**Comment by YaelDillies** [comment]
bors merge
